US08557826B2
Add Ti(OEt)4 (7 mL, 17 mmol) to a solution of (R)-(+)-2-methyl-2-propane sulfinamide (1.0 g, 8.3 mmol) and 1-(3-bromophenyl)ethanone (1.8 g, 9.1 mmol) in anhydrous THF (30 mL) at RT. Heat the mixture at 70° C. for 24 h. Allow the reaction mixture to cool to RT and pour into 30 mL of brine under vigorous stirring. Filter the suspension through a pad of Celite and wash the solid with EtOAc (2×20 mL). Wash the filtrate with brine (30 mL), dry (Na2SO4), and concentrate in vacuo. Chromatograph the residue on a silica gel column and elute with Et2O/hexanes to give (R)—N-(1-(3-bromophenyl)ethylidene)-2-methylpropane-2-sulfinamide.

reactant | (R)-(+)-2-methyl-2-propane sulfinamide | 8.3 mmol, 1.0 g | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | 1-(3-bromophenyl)ethanone | 9.1 mmol, 1.8 g | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | brine | 30 mL | [Cl-].[Na+].O
product | (R)—N-(1-(3-bromophenyl)ethylidene)-2-methylpropane-2-sulfinamide | BrC=1C=C(C=CC1)C(C)=N[S@](=O)C(C)(C)C | C12H16BrNOS
